US04605672
3-Chloro-4'-[3-(diethylamino)-propoxy]-α-ethyl-benzhydrol
19.2 g. of 3-chloro-4'-(3-bromopropoxy)-α-ethyl-benzhydrol and 51 ml. of dipropyl amine are refluxed for 8 hours, and the reaction mixture is then evaporated in vacuo. To the residue water is added and it is extracted with benzene. The benzene phase is washed with water, dried over anhydrous magnesium sulfate, and the solution is evaporated under reduced pressure. Distillation of the residue in vacuo yields 11.5 g. of the title compound, boiling at 203° to 206° C./13.3 Pa.

reactant | 3-chloro-4'-(3-bromopropoxy)-α-ethyl-benzhydrol | ClC=1C=C(C(C2=CC=C(C=C2)OCCCBr)(O)CC)C=CC1 | C18H20BrClO2
reactant | dipropyl amine | C(CC)NCCC | C6H15N
product | 3-Chloro-4'-[3-(diethylamino)-propoxy]-α-ethyl-benzhydrol | ClC=1C=C(C(C2=CC=C(C=C2)OCCCN(CC)CC)(O)CC)C=CC1 | C22H30ClNO2
